US08017605B2
6-{[6-(1H-pyrrol-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl]methyl}-3-(2,4,6-trifluorobenzoyl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A microwavable vial was charged with 6-[(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)methyl]-3-(2,4,6-trifluorobenzoyl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (20 mg, 0.04 mmol), [1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]boronic acid (12.6 mg, 0.06 mmol), cesium carbonate (39 mg, 0.119 mmol), bis(triphenylphosphine)palladium(II) chloride (2.8 mg, 3.98 umol) and acetonitril/water (0.6/0.2 ml). The vial was sealed, purged by 3 cycles of freeze-pump-thaw. The resultant suspension was heated to 135° C. by microwave irradiation for 15 min. LCMS showed complete consumption of the starting material and formation of the desired product. The reaction mixture was diluted with acetonitrile, and filtered through a 0.45 micron membrane filter and then concentrated to dryness under reduced pressure. The crude reaction mixture was purified by HPLC on Xbridge (C18 5u particle size, 30×75 mm) preparative column eluting with a linear gradient of 15-40% acetonitrile/water (0.01% NH4OH) at 70 ml/min. to give the title compound (1.6 mg, 8%). MS (ESI): m/z 489 (M+H). 1H-NMR (500 MHz, d6-DMSO): δ 11.35 (br. s, 1H), 8.61 (s, 1H), 8.03 (s, 1H), 7.89 (s, 1H), 7.58 (d, 1H), 7.36 (m, 2H), 7.00 (d, 1H), 6.86 (s, 1H), 6.54 (s, 1H), 6.11 (s, 1H), 5.47 (s, 2H),

reactant | 6-[(6-bromo-1H-imidazo[4,5-b]pyridin-2-yl)methyl]-3-(2,4,6-trifluorobenzoyl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.04 mmol, 20 mg | BrC=1C=C2C(=NC1)N=C(N2)CN2C(C1=C(C=C2)C(=CN1)C(C1=C(C=C(C=C1F)F)F)=O)=O | C21H11BrF3N5O2
reactant | [1-(tert-butoxycarbonyl)-1H-pyrrol-2-yl]boronic acid | 0.06 mmol, 12.6 mg | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | cesium carbonate | 0.119 mmol, 39 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 3.98 umol, 2.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitril water | 0.2 ml | C(C)#N.O
product | 6-{[6-(1H-pyrrol-2-yl)-1H-imidazo[4,5-b]pyridin-2-yl]methyl}-3-(2,4,6-trifluorobenzoyl)-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 1.6 mg, 8% | N1C(=CC=C1)C=1C=C2C(=NC1)N=C(N2)CN2C(C1=C(C=C2)C(=CN1)C(C1=C(C=C(C=C1F)F)F)=O)=O | C25H15F3N6O2
